US07517991B2
To a mixture of 1-t-butoxycarbonyl-4-carboxypiperidine (2.3 g, 10 mmol), 4-chlorobenzylamine (1.56 g, 11 mmol), and 1-hydroxy-7-azabenzotriazole (1.5 g, 11 mmol) in tetrahydrofuran (20 mL) at room temperature under argon, was added 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (2.1 g, 11 mmol), and the resulting mixture was stirred for 16 h. The solvent was evaporated under vacuum, and the residue was dissolved in ethyl acetate (50 mL). The resulting solution was washed sequentially with 0.01 M aqueous hydrochloric acid (50 mL), 1.0 M aqueous sodium hydroxide (25 mL), and brine (25 mL) before drying (anhydrous sodium sulfate) and evaporation under vacuum to obtain 4-(N-(4-chlorobenzyl)aminocarbonyl)-1-t-butoxycarbonylpiperidine (3.6 g, quantitative yield).

reactant | 1-t-butoxycarbonyl-4-carboxypiperidine | 10 mmol, 2.3 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)O | C11H19NO4
reactant | 4-chlorobenzylamine | 11 mmol, 1.56 g | ClC1=CC=C(CN)C=C1 | C7H8ClN
reactant | 1-hydroxy-7-azabenzotriazole | 11 mmol, 1.5 g | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 11 mmol, 2.1 g | Cl.CN(CCCN=C=NCC)C
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 4-(N-(4-chlorobenzyl)aminocarbonyl)-1-t-butoxycarbonylpiperidine | 3.6 g, quantitative yield | ClC1=CC=C(CNC(=O)C2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C18H25ClN2O3
